US05635510
56.2 Synthesis of 3-cyano-3-[4-(tert-butyldimethyl-silyloxy)-phenyl]-pentanedioic acid diethyl ester
Prepare by the method of example 1.1.2 using 4-(tert-butyldimethylsilyloxy)-phenyl-acetonitrile (0.161 mol) and ethyl bromoacetate (0.325 mol). Chromatograph on silica gel to give the title compound.

reactant | 4-(tert-butyldimethylsilyloxy)-phenyl-acetonitrile | 0.161 mol | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CC#N | C14H21NOSi
reactant | ethyl bromoacetate | 0.325 mol | BrCC(=O)OCC | C4H7BrO2
product | 3-cyano-3-[4-(tert-butyldimethyl-silyloxy)-phenyl]-pentanedioic acid diethyl ester | C(C)OC(CC(CC(=O)OCC)(C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)C#N)=O | C22H33NO5Si
